US06140351
To a solution of 2-methoxycarbonyl-3-chloro-4-(acetoxymethyl)thiophene (83 g, 0.33 mol) in 1,4-dioxane (350 mL) was added a solution of sodium hydroxide (26.5 g, 0.66 mol) in water (200 mL) and the mixture stirred at ambient temperature. After 1 hour the dioxane was removed in vacuo and the aqueous solution washed with ethyl acetate (2×1 00 mL). The aqueous layer was brought to pH 2 by addition of concentrated HCl, then extracted with n-butanol (4×200 mL). The combined extracts were concentrated and the resulting solid dried in vacuo to afford 63 g (90% yield) of 2-carboxy-3-chloro-4-(hydroxymethyl)thiophene as a tan powder; NMR (DMSO-d6) 7.7 (s, 1), 4.4 (s, 2) ppm.

reactant | 2-methoxycarbonyl-3-chloro-4-(acetoxymethyl)thiophene | 0.33 mol, 83 g | COC(=O)C=1SC=C(C1Cl)COC(C)=O | C9H9ClO4S
reactant | sodium hydroxide | 0.66 mol, 26.5 g | [OH-].[Na+]
solvent | 1,4-dioxane | 350 mL | O1CCOCC1 | C4H8O2
solvent | water | 200 mL | O | H2O
product | 2-carboxy-3-chloro-4-(hydroxymethyl)thiophene | 63 g, 90% yield | C(=O)(O)C=1SC=C(C1Cl)CO | C6H5ClO3S
